US07517996B2
(Step 7) Synthesis of 3-(4-[4-[1-(2-chlorophenyl)ethoxycarbonylamino]-5-isoxazolyl]-benzylsulfanyl)propionic acid
To a solution (1 ml) of methyl 3-(4-[4-[1-(2-chlorophenyl)ethoxy-carbonylamino]-5-isoxazolyl]benzylsulfanyl)propionate (22 mg, 0.046 mmol) in ethanol was added 2N hydrochloric acid (2 ml), and the mixture was stirred at 50° C. for 4 hours. The solvent was evaporated under reduced pressure, and water was added. The mixture was extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained crude product was purified by silica gel chromatography (dichloromethane:methanol=9:1) to give the title compound (10 mg, 47%).

reactant | methyl 3-(4-[4-[1-(2-chlorophenyl)ethoxy-carbonylamino]-5-isoxazolyl]benzylsulfanyl)propionate | 0.046 mmol, 1 ml, 22 mg | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C=NOC1C1=CC=C(CSCCC(=O)OC)C=C1 | C23H23ClN2O5S
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-[4-[1-(2-chlorophenyl)ethoxycarbonylamino]-5-isoxazolyl]-benzylsulfanyl)propionic acid | 10 mg, 47% | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C=NOC1C1=CC=C(CSCCC(=O)O)C=C1 | C22H21ClN2O5S
